US05238938
To 290 ml of water were added 110 ml of 25-28% ammonia water, 51 g of ammonium chloride and 38 g of sodium cyanide. To the solution was dropwise added 56 g of α-allyloxyacetaldehyde in about 2 hours at room temperature. After completion of the dropwise addition, reaction mixture was stirred for 3 hours at the same temperature. Then, 150 ml of diethyl ether was added and the reaction was continued for a further 3 days. After completion of the reaction, the aqueous layer was extracted with diethyl ether. The extract was washed with an aqueous solution saturated with NaCl, and dried over magnesium sulfate. The solvent was removed by evaporation to obtain 52 g of 3-allyloxy-2-aminopropionitrile (Compound B-1) as a brown oily substance.

reactant | ammonia water | 110 ml | O.N
reactant | ammonium chloride | 51 g | [Cl-].[NH4+]
reactant | sodium cyanide | 38 g | [C-]#N.[Na+]
reactant | α-allyloxyacetaldehyde | 56 g | C(C=C)OCC=O | C5H8O2
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | water | 290 ml | O | H2O
product | 3-allyloxy-2-aminopropionitrile | 52 g | C(C=C)OCC(C#N)N | C6H10N2O
